US05039331
Preparation of 4-chloro-2-fluoro-5-(2-tetrahydropyranyl)thiophenylisothiocyanate
2.00 g of 4-chloro-2-fluoro-5-mercaptophenylisothiocyanate was dissolved in 20 ml of dichloromethane, and 0.77 g of dihydropyran was added thereto. Two hours later dichloromethane was distilled off to obtain 2.77 g of the above-identified compound as yellow oil.

reactant | 4-chloro-2-fluoro-5-mercaptophenylisothiocyanate | 2.00 g | ClC1=CC(=C(C=C1S)N=C=S)F | C7H3ClFNS2
reactant | dihydropyran | 0.77 g | O1CCCC=C1 | C5H8O
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-chloro-2-fluoro-5-(2-tetrahydropyranyl)thiophenylisothiocyanate | 2.77 g | ClC=1C(=C(SC1C1OCCCC1)F)N=C=S | C10H9ClFNOS2
